US06919349B2
To a solution of 331 mg (0.85 mmol) of 2-amino-3-((3-methyl-4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]decane-8-carbonyl)amino)propionic acid methyl ester in 8.5 ml of dichloromethane, 149 mg (0.85 mmol) of (S)-3-acetylthiazolidin-4-carboxylic acid, 376 mg (0.85 mmol) of BOP reagent and 0.16 ml (0.95 mmol) of N,N-diisopropylethylamine were added, and the resulting mixture was stirred overnight at room temperature. To the reaction mixture, 10 ml of semi-saturated saline was added, and the resulting mixture was extracted with ethyl acetate. Organic phases were combined, washed with 0.5M hydrochloric acid, with saturated aqueous sodium hydrogen carbonate solution and with saturated saline, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by silica gel column chromatography (chloroform:methanol=100:1-10:1) to obtain 305 mg of 2-(((S)-3-acetylthiazolidin-4-carbonyl)amino)-3-((3-methyl-4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]decane-8-carbonyl)amino)propionic acid methyl ester (yield: 65%).

reactant | 2-amino-3-((3-methyl-4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]decane-8-carbonyl)amino)propionic acid methyl ester | 0.85 mmol, 331 mg | COC(C(CNC(=O)N1CCC2(C(N(CN2C2=CC=CC=C2)C)=O)CC1)N)=O | C19H27N5O4
reactant | (S)-3-acetylthiazolidin-4-carboxylic acid | 0.85 mmol, 149 mg | C(C)(=O)N1CSC[C@@H]1C(=O)O | C6H9NO3S
reactant | BOP reagent | 0.85 mmol, 376 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.95 mmol, 0.16 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 8.5 ml | ClCCl | CH2Cl2
product | 2-(((S)-3-acetylthiazolidin-4-carbonyl)amino)-3-((3-methyl-4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]decane-8-carbonyl)amino)propionic acid methyl ester | 305 mg, yield: 65% | COC(C(CNC(=O)N1CCC2(C(N(CN2C2=CC=CC=C2)C)=O)CC1)NC(=O)[C@@H]1N(CSC1)C(C)=O)=O | C25H34N6O6S
